US05574042
A solution of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine (300 mg) and dimethyl cyanodithioiminocarbonate (93 mg) in dimethylformamide (3 ml) was heated at 70° C. for 1 hour. After cooling the reacting mixture, to the mixture was added 70% solution of ethylamine in water (0.57 ml) and the mixture was heated at 60° C. for 2 hours. To this mixture was added water (3 ml) in an ice-water bath. The precipitates were collected by vacuum filtration and washed with ethyl acetate to give 3-bromo-8-[3-[N-[(2-cyano-3-ethylguanidino)acetyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine (278 mg) as colorless crystals.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine | 300 mg | NCC(=O)N(C)C=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C18H17BrCl2N4O2
reactant | dimethyl cyanodithioiminocarbonate | 93 mg | CSC(=NC#N)SC | C4H6N2S2
reactant | ethylamine | C(C)N | C2H7N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 0.57 ml | O | H2O
solvent | water | 3 ml | O | H2O
product | 3-bromo-8-[3-[N-[(2-cyano-3-ethylguanidino)acetyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine | 278 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(=NC#N)NCC)=O)Cl)C | C22H22BrCl2N7O2
